US04564479
2 ml of the stock solution described in Example 23 are added to 18 ml of DMF. 9.26 g (50 mmols) of 4-bromobenzaldehyde, 5.58 ml (55 mmols) of cyclohexene and 4.52 g (55 mmols) of anhydrous sodium acetate are then added and the reaction mixture is stirred for 8 hours at 140° C. in a pressure tube. After working up as described in Example 1, the crude product is distilled in vacuo. 2.05 g (11.0 mmols) of 4-formylphenylcyclohexene are obtained in the form of a yellow liquid of boiling point 140°-150° C./2400 Pa; yield 22% of theory (conversion figure 2200; Pd content 0.01 mol %). The product is a mixture of isomers.

reactant | 4-bromobenzaldehyde | 50 mmols, 9.26 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | cyclohexene | 55 mmols, 5.58 ml | C1=CCCCC1 | C6H10
reactant | sodium acetate | 55 mmols, 4.52 g | C(C)(=O)[O-].[Na+]
solvent | DMF | 18 ml | CN(C)C=O | C3H7NO
product | 4-formylphenylcyclohexene | 11.0 mmols, 2.05 g, yield 22% | C(=O)C1=CC=C(C=C1)C1=CCCCC1 | C13H14O
